US07872014B2
To a solution of 2-[3,4-bis(methyloxy)phenyl]-4-(methyloxy)-3-oxobutanenitrile (200 mg, 0.8 mmol) in ethanol (5 mL) was added hydrazine dihydrochloride (101 mg, 0.9 mmol). The resulting mixture was heated at reflux for 1 hour. It was cooled, pour into a saturated sodium bicarbonate solution (10 mL), and the mixture was extracted with ethyl acetate (3×10 mL). The combined extract was washed with water and brine (30 mL each), dried over sodium sulfate, filtered and concentrated to give oily residue. To this residue was added of 3-chloro-4-hydroxybenzaldehyde (189 mg, 1.2 mmol) and trifluoroacetic acid (3 mL), and the resulting mixture was heated at 70° C. for 18 hours. Then the reaction mixture was concentrated, dissolved in 10 mL of N,N-dimethylformamide and purified by preparatory reverse phase HPLC (Shimadzu LC-8A HPLC, Waters Xterra C18 30 mm×100 mm column, acetonitrile-water-trifluoroacetic buffer). After lyophillization of the pure fractions a yellow powder was obtained. The solid was dissolved in 4 mL of 1:1 methanol: 4N hydrogen chloride in dioxane, and evaporated to dryness (repeated three times) to give 4-{7,8-bis(methyloxy)-1-[(methyloxy)methyl]-3H-pyrazolo[3,4-c]isoquinolin-5-yl}-2-chlorophenol hydrochloride salt (101 mg, 0.23 mmol, 29% yield). 1H NMR (400 MHz, d6-DMSO): 10.64 (b, 1H), 7.82 (s, 1H), 7.71 (s, 1H), 7.58-7.56 (d, 1H), 7.45 (s, 1H), 7.17-7.15 (d, 1H), 4.92 (s, 2H), 4.02 (s, 3H), 3.78 (s, 3H); MS (EI) for C20H18ClN3O4: 400 (MH+).

reactant | 2-[3,4-bis(methyloxy)phenyl]-4-(methyloxy)-3-oxobutanenitrile | 0.8 mmol, 200 mg | COC=1C=C(C=CC1OC)C(C#N)C(COC)=O | C13H15NO4
reactant | hydrazine dihydrochloride | 0.9 mmol, 101 mg | Cl.Cl.NN
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
reactant | 3-chloro-4-hydroxybenzaldehyde | 1.2 mmol, 189 mg | ClC=1C=C(C=O)C=CC1O | C7H5ClO2
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | methanol | 4 mL | CO | CH4O
product | 4-{7,8-bis(methyloxy)-1-[(methyloxy)methyl]-3H-pyrazolo[3,4-c]isoquinolin-5-yl}-2-chlorophenol hydrochloride salt | 0.23 mmol, 101 mg, 29% yield | Cl.COC=1C(=CC=2C3=C(N=C(C2C1)C1=CC(=C(C=C1)O)Cl)NN=C3COC)OC | InChI=1S/C20H18ClN3O4.ClH/c1-26-9-14-18-11-7-16(27-2)17(28-3)8-12(11)19(22-20(18)24-23-14)10-4-5-15(25)13(21)6-10;/h4-8,25H,9H2,1-3H3,(H,22,23,24);1H
